2181-12-09 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - RPT crit and lytes all stable
   - CIWA >10 most of day
   - Transitioned to PO pain meds: [**6-16**] Oxycodone Q 4hrs PRN
   - Unsuccessfully attempted to get records from [**Hospital1 **] of last hosp
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-12-9**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.6
   HR: 70 (62 - 101) bpm
   BP: 96/47(58) {96/47(58) - 134/89(98)} mmHg
   RR: 11 (9 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,749 mL
                                                                    641 mL
   PO:
                                                                  1,440 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    309 mL
                                                                     41 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                  1,850 mL
   Urine:
                                                                  1,750 mL
                                                                  1,850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,399 mL
                                                                 -1,209 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   233 K/uL
   10.8 g/dL
   111 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   9 mg/dL
   100 mEq/L
   136 mEq/L
   30.5 %
   4.7 K/uL
        [image002.jpg]
                             [**2181-12-8**]  02:46 AM
                             [**2181-12-8**]  11:11 AM
                             [**2181-12-9**]  04:24 AM
   WBC
   4.4
   4.1
   4.7
   Hct
   28.1
   33.2
   30.5
   Plt
   220
   230
   233
   Cr
   0.7
   0.8
   0.8
   Glucose
   80
   91
   111
   Other labs: PT / PTT / INR:13.3/28.1/1.1, CK / CKMB / Troponin-T:222//,
   ALT / AST:37/66, Alk Phos / T Bili:81/0.5, Amylase / Lipase:/107,
   Albumin:3.9 g/dL, LDH:243 IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   37M with ETOH dependence and frequent admissions for EtOH intoxication
   presents with EtOH withdrawal and global pain.
   .
   # EtoH Withdrawal: Pt currently A0x2, Currently with signs of
   withdrawal with, tachycardia, and tremors of upper extremity bilateral.
   CIWAs 16-29.
   - Diazepam 10mg IV Q1H prn CIWA>10
   - Thiamine 100 mg Daily.
   - MVI 1 tab po qd
   - Folate 1 mg po qd
   - Monitor and replace fluid and electrolytes, especially watching for
   dehydration, hypomagnesemia, hypokalemia, alcoholic ketoacidosis
   - Check CK, PT, platelets
   - Will call psychiatry for consult to help manage withdrawal if he has
   recieved more than 100mgs valium in 10hrs or receives more than
   120mgs of valium in a 24hr period.
   .
   # S/P Recent MVA: Pt reports trauma 4 days for which he states he
   signed out AMA from the [**Hospital1 1**] ICU after this accident. No obvious signs
   of trauma on physical exam.
   - Will get OSH records for imaging studies
   .
   # Abdominal and Chest pain: DDx includes recent trauma (although
   nothing apparent on exam), acute EtOh hepatitis, pancreatitis, though
   minimal elevation of LFTs. Less likely cardiac given reproducible
   nature, and unchanged EKG. No fever or leukocytosis at this time.
   Lipase slightly increased from [**11-18**] (135 from 56). No evidence of
   ascites on recent Abd U/S.
   - Follow Troponin
   - Add on Amylase
   - Treat with low dose opiates with tight holding parameters
   .
   # L Elbow Pain. Mild swelling. No erythema. Good ROM although pt
   complaining of pain.
   - Will consider imaging of elbow tomorrow if symptoms persist
   - Access OSH records
   .
   # Alcoholic liver disease: AST/ALT elevated in 2:1 ratio, this is his
   baseline. No stigmata of liver disease by physical exam. Lipase 135
   normal. INR 1.1. No scopes in [**Hospital1 **] records.
   - Monitor coags, LFTs
   - Access OSH records
   .
   # Anemia - Iron deficiency anemia baseline per [**11-9**] labs with Ferritin
   of 11. Hct drop fro 34 to 28 in setting of 3L IVF. No active signs of
   bleeding, likely diluational.
   - AM Hct
   - PO Iron
   - Repleting Folate
   .
   # Bilateral Upper Extremity Hand Edema. Pt reports symptoms chronic in
   nature. Etiology remains unclear. Albumin WNL.
   - Will access OSH to look for any prior work-up
   .
   # PPx: Heparin sc tid, PPI given etoh abuse, bowel reg
   .
   # FEN: Regular diet, replete lytes prn, IVF
   .
   # Access: L PIV
   .
   # Code: FULL
   .
   # Communication: Patient
   .
   # Disp: [**Hospital Unit Name 702**] Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-12-8**] 02:38 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-12-10 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Switched to 10 mg diazepam q4hr scheduled as patient very anxious
   about withdrawal symptoms
   - SW talked with patient and agreed that he should be seen by
   Psychiatry on Monday to establish outpatient f/u and possibly
   antidepressants.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2181-12-9**] 08:04 AM
   Heparin Sodium (Prophylaxis) - [**2181-12-9**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-12-10**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 86 (58 - 106) bpm
   BP: 91/58(67) {86/47(57) - 148/77(96)} mmHg
   RR: 20 (8 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                  1,601 mL
                                                                    480 mL
   PO:
                                                                  1,560 mL
                                                                    480 mL
   TF:
   IVF:
                                                                     41 mL
   Blood products:
   Total out:
                                                                  4,125 mL
                                                                    700 mL
   Urine:
                                                                  4,125 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,524 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Thin, Anxious, Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present
   Extremities: Bilateral Hand swelling without focal erythema or cyanosis
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): Time,
   Person not location, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   233 K/uL
   10.8 g/dL
   111 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   9 mg/dL
   100 mEq/L
   136 mEq/L
   30.5 %
   4.7 K/uL
        [image002.jpg]
                             [**2181-12-8**]  02:46 AM
                             [**2181-12-8**]  11:11 AM
                             [**2181-12-9**]  04:24 AM
   WBC
   4.4
   4.1
   4.7
   Hct
   28.1
   33.2
   30.5
   Plt
   220
   230
   233
   Cr
   0.7
   0.8
   0.8
   Glucose
   80
   91
   111
   Other labs: PT / PTT / INR:13.3/28.1/1.1, CK / CKMB / Troponin-T:222//,
   ALT / AST:37/66, Alk Phos / T Bili:81/0.5, Amylase / Lipase:/107,
   Albumin:3.9 g/dL, LDH:243 IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   37M with ETOH dependence and frequent admissions for EtOH intoxication
   presents with EtOH withdrawal and global pain.
   .
   # EtoH Withdrawal: Currently with signs of withdrawal with anxiety, and
   tremors of upper extremity bilateral. CIWAs >10 overnight, but patient
   knows CIWA scale and has
faked
 elevated CIWAs in past.  However, he
   still at risk given that this is his 3^rd day since last drink and h/o
   seizures/DT
   - Continue Diazepam 10mg IV Q1H prn CIWA>10
   - Thiamine 100 mg Daily.
   - MVI 1 tab po qd
   - Folate 1 mg po qd
   - Monitor and replace fluid and electrolytes, especially watching for
   dehydration, hypomagnesemia, hypokalemia, alcoholic ketoacidosis
   - Diazepam 10mg Q4hr for anxiety
   .
   # S/P Recent MVA: Pt reports trauma 4 days for which he states he
   signed out AMA from the [**Hospital1 1**] ICU after this accident. No obvious signs
   of trauma on physical exam. No fracture on CXR.
   - Will try to get OSH records for imaging studies
   .
   # Alcoholic liver disease: AST and ALT improved today. No stigmata of
   liver disease by physical exam. INR 1.1.
   - Monitor coags, LFTs
   .
   # Anemia - Iron deficiency anemia baseline per [**11-9**] labs with Ferritin
   of 11. Hct drop fro 34 to 28 in setting of 3L IVF. No active signs of
   bleeding, likely diluational.
   - trend AM Hct
   - PO Iron
   - Repleting Folate
   .
   # Bilateral Upper Extremity Hand Edema. Pt reports symptoms chronic in
   nature. Etiology remains unclear. Albumin WNL.
   - Will access OSH to look for any prior work-up
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2181-12-8**] 02:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-12-10 12:06:00 Physician Attending Progress Note
Chief Complaint: Alcohol withdrawal
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient complaining of generalized pain
   Psychiatry consultation this morning
                                      History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2181-12-9**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2181-12-10**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 68 (58 - 106) bpm
   BP: 102/61(70) {86/47(57) - 148/77(96)} mmHg
   RR: 8 (8 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
                  Total In:
                                                                  1,601 mL
                                                                    840 mL
   PO:
                                                                  1,560 mL
                                                                    840 mL
   TF:
   IVF:
                                                                     41 mL
   Blood products:
   Total out:
                                                                  4,125 mL
                                                                  1,050 mL
   Urine:
                                                                  4,125 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,524 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.8 g/dL
   233 K/uL
   111 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   9 mg/dL
   100 mEq/L
   136 mEq/L
   30.5 %
   4.7 K/uL
        [image002.jpg]
                             [**2181-12-8**]  02:46 AM
                             [**2181-12-8**]  11:11 AM
                             [**2181-12-9**]  04:24 AM
   WBC
   4.4
   4.1
   4.7
   Hct
   28.1
   33.2
   30.5
   Plt
   220
   230
   233
   Cr
   0.7
   0.8
   0.8
   Glucose
   80
   91
   111
   Other labs: PT / PTT / INR:13.3/28.1/1.1, CK / CKMB / Troponin-T:222//,
   ALT / AST:37/66, Alk Phos / T Bili:81/0.5, Amylase / Lipase:/107,
   Albumin:3.9 g/dL, LDH:243 IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES):
   Heart rate 70's.  Appears comfortable upon entering the room.  Patinet
   notes he feels shakey.  Continues valium.  Awaiting psychiatry input.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Oxycodone, appears
   comfortable.  Contacting [**Name2 (NI) 1817**] to obtain records and xrays.
 ANEMIA: Hct stable.
 ELECTROLYTES:  Repleted electrolytes.  Labs improved.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2181-12-8**] 02:38 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2181-12-11 07:59:00 Physician Resident Progress Note
Chief Complaint: EtOH withdrawl, chronic pain
   24 Hour Events:
   - Obtained records from [**Hospital 1**] Medical Center ([**Hospital1 1817**])
   - Continued pt on 10 mg diazepam q4h, with 5-10 Oxycodone Q 4hrs PRN
   - Pt seen by psych and SW
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Chest pain, chronic, unchanged chest pain
   Respiratory: Dyspnea
   Pain: [**8-14**] Severe
   Flowsheet Data as of  [**2181-12-11**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 73 (58 - 103) bpm
   BP: 96/51(78) {72/34(44) - 117/77(85)} mmHg
   RR: 15 (8 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,560 mL
                                                                    980 mL
   PO:
                                                                  1,560 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,000 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                  1,200 mL
   Urine:
                                                                  2,600 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -40 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   233 K/uL
   10.8 g/dL
   111 mg/dL
   0.8 mg/dL
   25 mEq/L
   4.1 mEq/L
   9 mg/dL
   100 mEq/L
   136 mEq/L
   30.5 %
   4.7 K/uL
        [image002.jpg]
                             [**2181-12-8**]  02:46 AM
                             [**2181-12-8**]  11:11 AM
                             [**2181-12-9**]  04:24 AM
   WBC
   4.4
   4.1
   4.7
   Hct
   28.1
   33.2
   30.5
   Plt
   220
   230
   233
   Cr
   0.7
   0.8
   0.8
   Glucose
   80
   91
   111
   Other labs: PT / PTT / INR:13.3/28.1/1.1, CK / CKMB / Troponin-T:222//,
   ALT / AST:37/66, Alk Phos / T Bili:81/0.5, Amylase / Lipase:/107,
   Albumin:3.9 g/dL, LDH:243 IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   .
   37M with ETOH dependence and frequent admissions for EtOH intoxication
   presents with EtOH withdrawal and global pain.
   .
   # EtoH Withdrawal: CIWAs discontinued after consultation with psych
   yesterday and pt on benzo taper,
   - Continue Diazepam 5mg Q 6 today
   - Thiamine 100 mg Daily.
   - MVI 1 tab po qd
   - Folate 1 mg po qd
   - Monitor and replace fluid and electrolytes, especially watching for
   dehydration, hypomagnesemia, hypokalemia, alcoholic ketoacidosis
   - Oxycodone 10mg PO Q4hr- held overnight for low BP and oversedation
   - Psych consult yest- D/c'd CIWA, tapering Valium, TSH checked (normal)
   - SW working on placement at [**Last Name (un) 6339**].
   .
   # S/P Recent MVA: Pt reports trauma 4 days for which he states he
   signed out AMA from the [**Hospital1 1**] ICU after this accident. No obvious signs
   of trauma on physical exam. No fracture on CXR.
   - Will try to get OSH records for imaging studies
   .
   # Alcoholic liver disease: AST and ALT improved. No stigmata of liver
   disease by physical exam. INR 1.1.
   - Will rechk LFTs if needed
   .
   # Anemia - Iron deficiency anemia baseline. Hct stable.
   - PO Iron
   - Repleting Folate
   .
   # Bilateral Upper Extremity Hand Edema. Pt reports symptoms chronic in
   nature. Etiology remains unclear. Albumin WNL.
   - Will access OSH to look for any prior work-up
   ICU Care
   Nutrition: Regular
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2181-12-8**] 02:38 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  Pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor
   ------ Protected Section ------
   I saw and examined the patient with the medical ICU resident, reviewed
   24 hour events  and was present during key portions of the services
   provided.  Overnight had intermittent agitation requesting more pain
   meds.  Was angry with nursing when they failed to wake him up for
   scheduled meds even when he appeared to be sleeping comfortably.  Did
   receive records from [**Hospital1 **] and there was not evidence of
   trauma/fractures on multiple scans there.  No evidence of
   trauma/bruising on exam here.  On exam lungs clear, abdomen soft, NTND,
   normal bowel sounds, no peripheral edema.  No tremulousness.
   Plan was to try torodol or acetaminophen for pain, continue to taper
   benzos for withdrawal symptoms with goal to transfer to outpatient
   facility which required him to be off narcotics/benzos.  Patient stated
   he wanted to leave the hospital against medical advice which he had
   been threatening multiple times over the course of the night yesterday
   as well.  Patient left this morning.
   Time spent: 25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 91**], MD
   on:[**2181-12-11**] 14:13 ------